US06251921B1
Preparation of (S)-2-Amino-3-[4-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]propanol
O-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]-thiophen-2-yl]phenyl]-L-serine methyl ester in THF (4 mL) was treated with lithium aluminum hydride (22 mg) at ambient temperature under argon for 5 h. The reaction was quenched with water (0.5 mL) and sodium hydroxide solution (1.0 M, 1 mL) and stirred for 10 more min. before it was concentrated under reduced pressure. The residue was extracted with dichloromethane (20 mL×3) from brine (30 mL). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:10:85) followed by NH4OH:MeOH:EtOAc (5:10:85) afforded the product (27 mg).

reactant | O-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]-thiophen-2-yl]phenyl]-L-serine methyl ester | COC([C@@H](N)COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2)=O | C31H34N2O4S
reactant | lithium aluminum hydride | 22 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-3-[4-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]propanol | 27 mg | N[C@@H](CO)COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C30H34N2O3S
